US08222416B2
A Dess-Martin periodinane solution in dichloromethane (0.3 M, 9 mL, 2.7 mmol) was added to 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol (610 mg, 1.3 mmol) at 25° C. and then stirred for 1 h. The reaction was quenched with saturated aqueous sodium bicarbonate. The mixture was extracted with ethyl acetate, washed with a saturated aqueous sodium bicarbonate solution (3×20 mL), brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone (600 mg crude) as a light yellow solid which was used in the next step without further purification: 1H NMR (400 MHz, CDCl3) δ ppm 1.26 (m, 2H), 1.57-1.73 (m, 4H), 1.52 (s, 3H), 1.59 (s, 3H), 1.96 (m, 2H), 2.44 (m, 1H), 3.03 (d, J=7.2 Hz, 2H), 3.74 (dd, J=7.6 Hz, 8.4 Hz, 1H), 4.39 (dd, J=6.4 Hz, 8.4 Hz, 1H), 5.19 (dd, J=6.4 Hz, 7.6 Hz, 1H), 6.94 (s, 1H), 7.55 (m, 2H), 7.62 (m, 1H), 7.93 (d, J=2.0 Hz, 1H), 8.39 (d, J=7.6 Hz, 2H), 8.56 (d, J=2.0 Hz, 1H).

reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | dichloromethane | 2.7 mmol, 0.3 M, 9 mL | ClCCl | CH2Cl2
reactant | 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol | 1.3 mmol, 610 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C2OC(OC2)(C)C)C(CC2CCCC2)O | C25H30N2O5S
product | 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone | 600 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C2OC(OC2)(C)C)C(CC2CCCC2)=O | C25H28N2O5S
